### PR TITLE
[Merged by Bors] - feat(Order/GaloisConnection): add variant of `l_sSup` and `u_sInf`

### PR DESCRIPTION
**Pull request by martinwintermath**
Add

* `l_sSup_eq_sSup_image` stating `l (sSup s) = sSup (l '' s)`
* `u_sInf_eq_sInf_image` stating `u (sInf s) = sInf (u '' s)`

These variants are sometimes easier to chain than the existing `l_sSup` which rewrites `sSup` into `iSup`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/GaloisConnection/Basic.lean [hunk 1]
```diff
@@ -114,6 +114,11 @@ theorem l_iSup₂ {f : ∀ i, κ i → α} :
 theorem l_sSup {s : Set α} : l (sSup s) = ⨆ a ∈ s, l a := by
   simp only [sSup_eq_iSup, gc.l_iSup]
 
+@[to_dual]
+theorem l_sSup₂ {s : Set α} : l (sSup s) = sSup (l '' s) := by
```
Comment (ADedecker) [inline Mathlib/Order/GaloisConnection/Basic.lean]:
```suggestion
theorem l_sSup_eq_sSup_image {s : Set α} : l (sSup s) = sSup (l '' s) := by
```

`sSup₂` doesn't really exist so strictly speaking there is no ambiguity here, but the same is too similar to `l_iSup₂` above where the index 2 indicates something completely  different.

**Review by ADedecker — COMMENTED** [review]
I am completely fine with adding this lemma, but I suspect that if you need to chain things conveniently you should probably be using `iSup` anyways.

**Comment by ADedecker** [comment]
> NOTE: should we swap the names of `l_sSup` and `l_sSup₂`?

No, I don't think so. It is a standard and deliberate pattern in the library to avoid prefer `iSup` over `sSup` of the image.

File: Mathlib/Order/GaloisConnection/Basic.lean [hunk 2]
```diff
@@ -114,6 +114,11 @@ theorem l_iSup₂ {f : ∀ i, κ i → α} :
 theorem l_sSup {s : Set α} : l (sSup s) = ⨆ a ∈ s, l a := by
   simp only [sSup_eq_iSup, gc.l_iSup]
 
+@[to_dual]
+theorem l_sSup_eq_sSup_image {s : Set α} : l (sSup s) = sSup (l '' s) := by
+  rw [sSup_image]
+  exact l_sSup gc
```
Comment (ADedecker) [inline Mathlib/Order/GaloisConnection/Basic.lean]:
```suggestion
  exact gc.l_sSup
```
This is a nitpick, but it is also making this more robust, as this second variant doesn't need `GaloisConnection` to be open.

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

**Comment by ADedecker** [comment]
(I took the freedom to edit the commit message, feel free to change it again)
